US07776909B2
To a solution of 2-methyl-4-amino phenylacetic acid methyl ester (5.3 mmol) in acetone (10 mL) dry pyridine (7.95 mmol) and phenylsulfonyl chloride (6.36 mmol) have been added and the resulting solution has been left stirring overnight at room temperature. Acetone has been evaporated and the residue diluted with CHCl3 (15 mL), washed with 1N HCl (2×10 mL), water (3×20 mL), dried over Na2SO4 and evaporated under vacuum to give {2-methyl-4-[(phenylsulphonyl)amino]phenyl}acetic acid methyl ester as colourless oil (5.0 mmol) pure to be used in the following reaction. Following the procedure described for Example 1 and starting from the methyl ester (5.0 mmol) pure {2-methyl-4-[(phenylsulphonyl)amino]phenyl}acetic acid has been synthesised (4.75 mmol).

reactant | 2-methyl-4-amino phenylacetic acid methyl ester | 5.3 mmol | COC(CC1=C(C=C(C=C1)N)C)=O | C10H13NO2
reactant | acetone | 7.95 mmol, 10 mL | CC(=O)C | C3H6O
reactant | phenylsulfonyl chloride | 6.36 mmol | C1(=CC=CC=C1)S(=O)(=O)Cl | C6H5ClO2S
product | {2-methyl-4-[(phenylsulphonyl)amino]phenyl}acetic acid methyl ester | 5.0 mmol | COC(CC1=C(C=C(C=C1)NS(=O)(=O)C1=CC=CC=C1)C)=O | C16H17NO4S
